US09029371B2
A solution of 4-(4-benzyl-morpholin-2-yl)-2-chloro-phenol (0.50 g; 1.56 mmol), 2,6-dichlorofluorobenzene (0.26 g; 1.56 mmol) and K2CO3 (0.32 g; 2.35 mmol) in DMF (10 mL) was heated at 100° C. for three days. After cooling to RT, the mixture was diluted with EtOAc and washed with water (3×). The organic layer was dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by column chromatography (SiO2, CH2Cl2/MeOH 99.5:0.5) to afford 4-Benzyl-2-[3-chloro-4-(2,6-dichloro-phenoxy)-phenyl]-morpholine (0.35 g).

reactant | 4-(4-benzyl-morpholin-2-yl)-2-chloro-phenol | 1.56 mmol, 0.50 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC(=C(C=C1)O)Cl | C17H18ClNO2
reactant | 2,6-dichlorofluorobenzene | 1.56 mmol, 0.26 g | ClC1=C(C(=CC=C1)Cl)F | C6H3Cl2F
reactant | K2CO3 | 2.35 mmol, 0.32 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Benzyl-2-[3-chloro-4-(2,6-dichloro-phenoxy)-phenyl]-morpholine | 0.35 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC(=C(C=C1)OC1=C(C=CC=C1Cl)Cl)Cl | C23H20Cl3NO2
